US04532240
N-[4-[4-(2,4-Diamino-6-propyl-5-pyrimidinyl)-1-piperazinyl]benzoyl]-L-glutamic acid, diethyl ester
A mixture of 3.2 g (0.0091 mole) of 4-[4-(2,4-diamino-6-propyl-5-pyrimidinyl]-1-piperazinyl]benzoic acid, 4.9 g (0.030 mole) of diethyl phosphorocyanidate and 4.2 ml (0.030 mole) of triethylamine in 200 ml of of N,N-dimethylformamide (dried over 4 Å molecular sieves overnight) was stirred at room temperature for two hours. To the resulting clear solution was added a mixture of 2.4 g (0.010 mole) of diethyl glutamate hydrochloride and 1.4 ml (0.010 mole) of triethylamine in 10 ml of N,N-dimethylformamide, and the solution was stirred for another hour. The solvent was removed under high vacuum (0.1 mm, dry ice-2-propanol trap) at 40° C. The gummy residue was poured into 100 ml of ice water. The solid was collected and recrystallized from N,N-dimethylformamide to give 1.9 g of the product as an off-white powder; mp 175°-180° C.

reactant | 4-[4-(2,4-diamino-6-propyl-5-pyrimidinyl]-1-piperazinyl]benzoic acid | 0.0091 mole, 3.2 g | NC1=NC(=C(C(=N1)N)N1CCN(CC1)C1=CC=C(C(=O)O)C=C1)CCC | C18H24N6O2
reactant | diethyl phosphorocyanidate | 0.030 mole, 4.9 g | P(OCC)(OCC)(=O)C#N | C5H10NO3P
reactant | triethylamine | 0.030 mole, 4.2 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl glutamate hydrochloride | 0.010 mole, 2.4 g | Cl.N[C@@H](CCC(=O)OCC)C(=O)OCC
reactant | triethylamine | 0.010 mole, 1.4 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-[4-[4-(2,4-Diamino-6-propyl-5-pyrimidinyl)-1-piperazinyl]benzoyl]-L-glutamic acid, diethyl ester | 1.9 g | NC1=NC(=C(C(=N1)N)N1CCN(CC1)C1=CC=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C1)CCC | C27H39N7O5
